*ZETEX ZVN3306A Spice Model v1.1 Last Revised 3/5/00
    *
    .SUBCKT ZVN3306A 3 4 5
    *                D G S
    M1 3 2 5 5 N3306M
    RG 4 2 270
    RL 3 5 1.2E8
    C1 2 5 28E-12
    C2 3 2 3E-12 
    D1 5 3 N3306D
    *
    .MODEL N3306M NMOS VTO=1.824 RS=1.572 RD=1.436 IS=1E-15 KP=.1233
    +CBD=35E-12 PB=1
    .MODEL N3306D D IS=5E-12 RS=.768
    .ENDS ZVN3306A
    *
    *$
    *